US08389553B2
Methyl 4-{[[(2,4-dinitrophenyl)sulfonyl]({1-[(trimethylsilyl)methyl]-1H-1,2,3-triazol-4-yl}methyl)amino]methyl}benzoate
A solution of {1-[(trimethylsilyl)methyl]-1H-1,2,3-triazol-4-yl}methanol (241 mg, 1.30 mmol), methyl 4-({[(2,4-dinitrophenyl)sulfonyl]amino}methyl)benzoate (514 mg, 1.30 mmol), triphenylphosphine (409 mg, 1.56 mmol) and benzene (4.34 mL) was treated with diethylazodicarboxylate (247 uL, 1.56 mmol). After one hour additional portions of triphenylphosphine (204 mg, 0.780 mmol) and diethylazodicarboxylate (124 uL, 0.780 mmol) The reaction was diluted with EtOAc and washed with 2M aq. HCl 2×, water, brine, dried (MgSO4) and concentrated to afford a brown oil used crude in the next reaction. MS: cal'd 563 (MH+), exp 563 (MH+).

reactant | {1-[(trimethylsilyl)methyl]-1H-1,2,3-triazol-4-yl}methanol | 1.30 mmol, 241 mg | C[Si](C)(C)CN1N=NC(=C1)CO | C7H15N3OSi
reactant | methyl 4-({[(2,4-dinitrophenyl)sulfonyl]amino}methyl)benzoate | 1.30 mmol, 514 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)NCC1=CC=C(C(=O)OC)C=C1 | C15H13N3O8S
reactant | triphenylphosphine | 1.56 mmol, 409 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.56 mmol, 247 uL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.780 mmol, 204 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.780 mmol, 124 uL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | benzene | 4.34 mL | C1=CC=CC=C1 | C6H6
product | Methyl 4-{[[(2,4-dinitrophenyl)sulfonyl]({1-[(trimethylsilyl)methyl]-1H-1,2,3-triazol-4-yl}methyl)amino]methyl}benzoate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)N(CC=1N=NN(C1)C[Si](C)(C)C)CC1=CC=C(C(=O)OC)C=C1 | C22H26N6O8SSi
